US08017634B2
Resveratrol/Nicotinamide Dilutions
Resveratrol (Indofine #024964) was dissolved in Ethanol or DMSO to a 10 mM stock solution. Resveratrol was added to 60 mm NGM agar dishes containing either OP50 or RNAi expressing bacteria (HT115) to a final concentration of 10 μm, 50 μm, and 100 μM. Nile Red was also added to plates to a final concentration of 0.05 μg/ml. Nicotinamide (Supelco #47865-U) was diluted in PBS including Nile Red and added to 60 mM dishes containing OP50 to a final concentration of 1 mM, 10 mM, or 100 mM.

reactant | Resveratrol | C1(=CC(O)=CC(O)=C1)C=CC1=CC=C(O)C=C1 | C14H12O3
reactant | DMSO | CS(=O)C | C2H6OS
reactant | Nile Red | CCN(CC)C1=CC2=C(C=C1)N=C3C4=CC=CC=C4C(=O)C=C3O2 | C20H18N2O2
reactant | Nicotinamide | C(C1=CN=CC=C1)(=O)N | C6H6N2O
solvent | Ethanol | C(C)O | C2H6O
product | Resveratrol Nicotinamide | C1(=CC(O)=CC(O)=C1)C=CC1=CC=C(O)C=C1.C(C1=CN=CC=C1)(=O)N | InChI=1S/C14H12O3.C6H6N2O/c15-12-5-3-10(4-6-12)1-2-11-7-13(16)9-14(17)8-11;7-6(9)5-2-1-3-8-4-5/h1-9,15-17H;1-4H,(H2,7,9)
